US04025637
A mixture of ethyl 3-amino-4-hydroxy-phenyl-propionate (4 g.), 4-fluoro-phenyl-acetic acid (3 g.), p-toluene sulphonic acid (0.1 g.) and xylene (50 ml.) was heated under reflux for 20 hours and the water which formed was removed using a Dean and Stark apparatus. The solution was evaporated to dryness and the residue dissolved in ether. The solution was washed with 2N-sodium hydroxide solution (x2) and water, then stirred with charcoal and anhydrous sodium sulphate, filtered and evaporated to dryness. The residual oil (3.7 g., ND22.5 1.5469) was dissolved in ethanol (30 ml.) and 2N-sodium hydroxide solution (30 ml) was added with stirring over 15 minutes. The reaction mixture was stirred for 21/2 hours during which time water (250 ml) was slowly added. The solution was extracted with ether (x2), acidified with concentrated hydrochloric acid and then extracted with ether (x3). These ethereal extracts were washed with water, dried over anhydrous sodium sulphate and evaporated to give an oil. This oil was purified using prep. tlc plates to give 2-[2-(4-fluorobenzyl)-5-benzoxazolyl]propionic acid as a white solid, mpt 91°-93° C., which was characterised by IR UV and NMR spectroscopy and by microanalysis which gave C 68.40%, H 3.86%, N4.64%; C17H14FNO3 requires C 68.23%, H 4.68%, N 4.68%

reactant | ethyl 3-amino-4-hydroxy-phenyl-propionate | 4 g | NC=1C=C(C=CC1O)C(C(=O)OCC)C | C11H15NO3
reactant | 4-fluoro-phenyl-acetic acid | 3 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | p-toluene sulphonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 2-[2-(4-fluorobenzyl)-5-benzoxazolyl]propionic acid | FC1=CC=C(CC=2OC3=C(N2)C=C(C=C3)C(C(=O)O)C)C=C1 | C17H14FNO3
